US07157487B2
(Step 3) Synthesis of 2-fluoro-3-hydroxy-4-nitrophenylacetic acid
Di-tert-butyl (3-benzyloxy-2-fluoro-4-nitrophenyl)malonate (6.87 g, 14.9 mmol), acetic acid (200 ml) and concentrated hydrochloric acid (35 ml) were stirred at 120° C. for 6 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure, whereby the title compound was obtained as a brown oil (this compound was provided for the subsequent reaction without further purification).

reactant | Di-tert-butyl (3-benzyloxy-2-fluoro-4-nitrophenyl)malonate | 14.9 mmol, 6.87 g | C(C1=CC=CC=C1)OC=1C(=C(C=CC1[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F | C24H28FNO7
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-fluoro-3-hydroxy-4-nitrophenylacetic acid | FC1=C(C=CC(=C1O)[N+](=O)[O-])CC(=O)O | C8H6FNO5
